*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/2.20e-02[uF]/50[V]
* Murata P/N :GCM155R71H223KA40
* Property : C = 2.20e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM155R71H223KA40 Port1 Port2
C01 Port1 N01 2.14e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.61e-10
R03 N02 N03 3.37e-02
C04 N03 N04 2.37e-06
R04 N03 N04 1.68e+03
C05 N04 N05 7.82e-06
R05 N04 N05 9.24e+01
C06 N05 N06 3.07e-06
R06 N05 N06 4.96e+01
C07 N06 N07 2.79e-06
R07 N06 N07 5.70e+00
C08 N07 N08 2.29e-06
R08 N07 N08 7.55e-01
C09 N08 N09 1.65e-06
R09 N08 N09 1.24e-01
C10 N09 N10 1.59e-06
R10 N09 N10 2.48e-02
L11 N10 N11 2.09e-11
R11 N10 N11 6.78e-01
L12 N11 N12 7.36e-11
R12 N11 N12 1.70e-01
C13 N12 N13 1.13e-07
L13 N12 N13 1.46e-11
R13 N12 N13 2.25e-02
C14 N13 N14 3.36e-08
L14 N13 N14 2.23e-11
R14 N13 N14 4.60e-02
C15 N14 Port2 5.63e-12
L15 N14 Port2 4.84e-11
R15 N14 Port2 1.25e+01
.ENDS GCM155R71H223KA40
